US08686043B2
Step 7. Synthesis of compound N-{(1S,2R)-2-[(2′-cyanobiphenyl-4-yl)oxy]cyclopentyl}propane-2-sulfonamide
The title compound of Step 7 was prepared according to the general procedure for the synthesis of Example 2, except that N-[(1S,2R)-2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide was used instead of N-[(3S,4S)-4-(4-bromophenoxy)tetrahydrofuran-3-yl]propane-2-sulfonamide, and (2-cyanophenyl)boronic acid was added in place of phenylboronic acid. After the reaction mixture was concentrated in vacuo, it was directly purified by silica gel chromatography in this case (Eluant: 25% ethyl acetate in heptane), to afford the product as a sticky white foam. Trituration with hexanes gave product as a white powder. Yield: 53 mg, 0.14 mmol, 82%. MS (APCI) m/z 382.9 (M−1). 1H NMR (400 MHz, CDCl3) δ 1.36 (d, J=6.7 Hz, 3H), 1.40 (d, J=6.8 Hz, 3H), 1.66 (m, 1H), 1.82-2.03 (m, 4H), 2.15 (m, 1H), 3.15 (septet, J=6.8 Hz, 1H), 3.90 (m, 1H), 4.70 (m, 2H), 7.01 (d, J=8.8 Hz, 2H), 7.42 (ddd, J=7.6, 7.6, 1.2 Hz, 1H), 7.50 (m, 1H), 7.52 (d, J=8.8 Hz, 2H), 7.64 (ddd, J=7.7, 7.7, 1.4 Hz, 1H), 7.76 (m, 1H).

reactant | N-[(1S,2R)-2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide | BrC1=CC=C(O[C@H]2[C@H](CCC2)NS(=O)(=O)C(C)C)C=C1 | C14H20BrNO3S
reactant | (2-cyanophenyl)boronic acid | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N-{(1S,2R)-2-[(2′-cyanobiphenyl-4-yl)oxy]cyclopentyl}propane-2-sulfonamide | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)O[C@H]1[C@H](CCC1)NS(=O)(=O)C(C)C | C21H24N2O3S
